US04737488
N-(2-Acetamido-2-deoxy-D-glucopyranosyl)dodecylamine
15 g of N-acetylglucosamine and 19 g of dodecylamine are heated at 80° C. for 3 hours in 50 ml of ethanol, with stirring. The undissolved material is then filtered off hot, the filtrate is cooled and the precipitated product is filtered off with suction and rinsed with ethanol and ether. The residue on the filter is dried in vacuo.

reactant | N-acetylglucosamine | 15 g | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | dodecylamine | 19 g | C(CCCCCCCCCCC)N | C12H27N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-Acetamido-2-deoxy-D-glucopyranosyl)dodecylamine | C(C)(=O)N[C@H]1C(O[C@@H]([C@H]([C@@H]1O)O)CO)CCCCCCCCCCCCN | C20H40N2O5
